US09403805B2
To a stirred solution of (2S,4R)-4-tert-butoxy-pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester (500 mg, 1.56 mmol) and 2,2-dimethoxy-ethylamine (163 mg, 1.56 mmol) in dichloromethane (5 mL) were added EDC-HCl (298 mg, 1.56 mmol), HOBt (210 mg, 1.56 mmol) and triethylamine (157 mg, 1.56 mmol). The mixture was stirred at room temp. for 24 h, diluted with water, extracted with ethyl acetate and washed with water and brine. The organic layer was dried over anhydrous sodium sulfate, filtered, concentrated and purified by column chromatography (using 15% EtOAc in hexane as eluent) to give (2S,4R)-4-tert-butoxy-2-(2,2-dimethoxy-ethylcarbamoyl)-pyrrolidine-1 -carboxylic acid benzyl ester (200 mg, 31.6% yield) as a light brown liquid. MS calcd. for C21H33N2O6 [(M+H)+] 409.0, obsd. 409.0.

reactant | (2S,4R)-4-tert-butoxy-pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester | 1.56 mmol, 500 mg | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OC(C)(C)C)C(=O)O | C17H23NO5
reactant | 2,2-dimethoxy-ethylamine | 1.56 mmol, 163 mg | COC(CN)OC | C4H11NO2
reactant | EDC-HCl | 1.56 mmol, 298 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 1.56 mmol, 210 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 1.56 mmol, 157 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (2S,4R)-4-tert-butoxy-2-(2,2-dimethoxy-ethylcarbamoyl)-pyrrolidine-1 -carboxylic acid benzyl ester | 200 mg, 31.6% yield | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OC(C)(C)C)C(NCC(OC)OC)=O | C21H32N2O6
